US05530128
(a) (S)-3[1-oxo-5-(4-methylphenyl)pentyl]-4-(phenylmethyl)-2-oxazolidinone (1)
BuLi (1.6M solution in hexanes, 4.4 mmol, 2.75 ml, 1.2 equiv.) was added dropwise to a solution of (S)-4-(phenylmethyl)-2-oxazolidinone (3.64 mmol, 0.64 g) in THF (15 ml) at -78° C., under N2 atmosphere. The orange solution was stirred for 30 mins at -78° C. and then a solution of p-toylvalerylchloride (4.06 mmol, 0.86 g) in THF (5 ml) was added dropwise. The reaction mixture was stirred at -78° C. for 2 hrs before quenching at -78° C. with a mixture of brine and 10% aqueous HCl (1:1, 20 ml). On warming to ambient temperature the reaction mixture was partitioned between EtOAc and water. The aqueous layer was separated and extracted twice with EtOAc. The combined organic layers were washed once with brine, once with sodium bicarbonate solution and dried over MgSO4. The solvent was removed under vacuum to give a brown oil which was purified on silica gel (Merck 9385) eluting with 20% EtOAc/hexane to give the compound as a slightly yellow oil (0.65 g, 51%).

reactant | BuLi | 4.4 mmol, 1.6M, 2.75 ml, 1.2 equiv. | [Li]CCCC
reactant | (S)-4-(phenylmethyl)-2-oxazolidinone | 3.64 mmol, 0.64 g | C1(=CC=CC=C1)C[C@@H]1NC(OC1)=O | C10H11NO2
reactant | THF | 15 ml | C1CCOC1 | C4H8O
reactant | THF | 5 ml | C1CCOC1 | C4H8O
product | (S)-3[1-oxo-5-(4-methylphenyl)pentyl]-4-(phenylmethyl)-2-oxazolidinone | 0.65 g, 51% | O=C(CCCCC1=CC=C(C=C1)C)N1C(OC[C@@H]1CC1=CC=CC=C1)=O | C22H25NO3
